US06924284B2
3-[3-(5-Ethoxycarbonylaminothiophen-3-yl)-1,2,4-oxadiazol-5-yl]propionic acid methyl ester;
3-[3-(5-Propionylaminothiophen-3-yl)-1,2,4-oxadiazol-5-yl]propionic acid methyl ester; 3-{3-[5-(3-Methylbutyrylamino)thiophen-3-yl]-1,2,4-oxadiazol-5-yl}propionic acid methyl ester; and 3-[3-(5-Benzyloxycarbonylaminothiophen-3-yl)-1,2,4-oxadiazol-5-yl]propionic acid methyl ester.

reactant | 3-[3-(5-Propionylaminothiophen-3-yl)-1,2,4-oxadiazol-5-yl]propionic acid methyl ester | COC(CCC1=NC(=NO1)C1=CSC(=C1)NC(CC)=O)=O | C13H15N3O4S
reactant | 3-{3-[5-(3-Methylbutyrylamino)thiophen-3-yl]-1,2,4-oxadiazol-5-yl}propionic acid methyl ester | COC(CCC1=NC(=NO1)C1=CSC(=C1)NC(CC(C)C)=O)=O | C15H19N3O4S
reactant | 3-[3-(5-Benzyloxycarbonylaminothiophen-3-yl)-1,2,4-oxadiazol-5-yl]propionic acid methyl ester | COC(CCC1=NC(=NO1)C1=CSC(=C1)NC(=O)OCC1=CC=CC=C1)=O | C18H17N3O5S
product | 3-[3-(5-Ethoxycarbonylaminothiophen-3-yl)-1,2,4-oxadiazol-5-yl]propionic acid methyl ester | COC(CCC1=NC(=NO1)C1=CSC(=C1)NC(=O)OCC)=O | C13H15N3O5S
